US06143763
6-Hydroxycarbostyril (100 g) is added into phosphorus oxychloride (500 ml), and the mixture is refluxed for 5 hours. The mixture is concentrated under reduced pressure to remove the phosphorus oxychloride, and the residue thus obtained is dissolved in a small amount of chloroform, and then the mixture is poured into ice-water. The precipitated crystals are collected by filtration, washed successively with water, acetone and n-hexane, and dried to give 2-chloro-6-hydroxyquinoline hydrochloride (127 g).

reactant | 6-Hydroxycarbostyril | 100 g | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | phosphorus oxychloride | 500 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-6-hydroxyquinoline hydrochloride | 127 g | Cl.ClC1=NC2=CC=C(C=C2C=C1)O | InChI=1S/C9H6ClNO.ClH/c10-9-4-1-6-5-7(12)2-3-8(6)11-9;/h1-5,12H;1H
